US06080772
4-(4-Bromophenyl)-5-(thien-2-yl)-1,2,4-triazol-3-thione
By substituting 2 g of N1-(4-bromophenylaminothiocarbonyl)-N2-(thien-2-carbonyl)hydrazine for the N1-(4-methoxyphenylaminothiocarbonyl)-N2-(thien-2-carbonyl)hydrazine in the method of Example 97, 1.1 g of the title compound is obtained as an off-white solid.

reactant | N1-(4-bromophenylaminothiocarbonyl)-N2-(thien-2-carbonyl)hydrazine | 2 g | BrC1=CC=C(C=C1)NC(=S)NNC(=O)C=1SC=CC1 | C12H10BrN3OS2
reactant | N1-(4-methoxyphenylaminothiocarbonyl)-N2-(thien-2-carbonyl)hydrazine | COC1=CC=C(C=C1)NC(=S)NNC(=O)C=1SC=CC1 | C13H13N3O2S2
product | 4-(4-Bromophenyl)-5-(thien-2-yl)-1,2,4-triazol-3-thione | 1.1 g | BrC1=CC=C(C=C1)N1C(NN=C1C=1SC=CC1)=S | C12H8BrN3S2
